US07179823B1
A mixture of ethyl 3-[3-phenyl-1-[3-(4-trifluoromethylbenzylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate (870 mg), 1 N aqueous sodium hydroxide solution (2 ml), ethanol (6 ml), and tetrahydrofuran (4 ml) was stirred at room temperature for one hour. The reaction mixture was poured into water, then 1 N hydrochloric acid (2 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated. The obtained crystals were collected by filtration, and 3-[3-phenyl-1-[3-(4-trifluoromethylbenzylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionic acid (730 mg, yield: 89%) was obtained. This was recrystallized from acetone-isopropyl ether. Melting point: 165–166° C.

reactant | ethyl 3-[3-phenyl-1-[3-(4-trifluoromethylbenzylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate | 870 mg | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC(=CC=C1)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C30H28F3N3O3
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | ethanol | 6 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1 N, 2 ml | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 3-[3-phenyl-1-[3-(4-trifluoromethylbenzylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionic acid | 730 mg, yield: 89% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)O)CC1=CC(=CC=C1)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C28H24F3N3O3
